US05212173
10 ml of N-(2-hydroxyethyl)-N-methylamine were added to the solution of 2-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]hept-2-yl)ethylthio]ethyl methanesulfonate in dichloromethane obtained above. The dichloromethane was then distilled off under reduced pressure, and the remaining reaction mixture was stirred at 60° C. for 4 hours. The reaction mixture was worked up by adding 30 ml of water and extracting the mixture with ethyl acetate. The organic phase was separated and concentrated. The remaining residue was purified by chromatography on silica gel using n-hexane/dichloromethane/methanol as the eluent. 2.6 g of N-(2-[2((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]hept-2-yl)ethy lthio]ethyl]-N-(2-hydroxyethyl)-N-methylamine were obtained.

reactant | N-(2-hydroxyethyl)-N-methylamine | 10 ml | OCCNC | C3H9NO
reactant | 2-[2-((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]hept-2-yl)ethylthio]ethyl methanesulfonate | CS(=O)(=O)OCCSCC[C@H]1[C@H]2C([C@@H](CC1)C2)(C)C | C14H26O3S2
reactant | water | 30 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-[2((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]hept-2-yl)ethy lthio]ethyl]-N-(2-hydroxyethyl)-N-methylamine | 2.6 g | CC1([C@H]2CC[C@H]([C@@H]1C2)CCSCCN(C)CCO)C | C16H31NOS
